US04089961
A solution of 3.42 g. (0.01 mole) of 3-(2-cyanothioxanthen-9-ylidene)quinolizidine in 50 ml. of benzene is added to a stirred solution of 0.013 mole of methyl magnesium bromide in 5 ml. of ether and 50 ml. of benzene. The stirred mixture is heated at reflux temperature for two hours, then it is cooled to 10° C. and added slowly to 250 ml. of vigorously stirred ice-water. Excess 3 N hydrochloric acid is added to the stirred mixture. The aqueous layer is separated and then it is made alkaline with 2.5 N sodium hydroxide. The mixture is extracted with ethyl acetate. After being dried over magnesium sulfate, the extracts are concentrated. The residue is chromatographed on an alumina column using ether as the eluate. Evaporation of the appropriate fractional eluant gives 3-(2-acetylthioxanthen-9-ylidene)quinolizidine which is converted to a fumarate salt by treatment with a molar equivalent of fumaric acid in methanol.

reactant | 3-(2-cyanothioxanthen-9-ylidene)quinolizidine | 0.01 mole | C(#N)C1=CC=2C(C3=CC=CC=C3SC2C=C1)=C1CCC2CCCCN2C1 | C23H22N2S
reactant | methyl magnesium bromide | 0.013 mole | C[Mg]Br
reactant | hydrochloric acid | 3 N | Cl | ClH
reactant | ether | CCOCC | C4H10O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-(2-acetylthioxanthen-9-ylidene)quinolizidine | C(C)(=O)C1=CC=2C(C3=CC=CC=C3SC2C=C1)=C1CCC2CCCCN2C1 | C24H25NOS
